US08193359B2
4-[2-(Furo[3,2-c]pyridin-2-ylmethoxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester
t-BuOK (45 mg, 401 μmol) and 4-(2-methanesulfonyloxyethyl)piperidine-1-carboxylic acid tert-butyl ester (134 mg, 436 μmol) were added to a stirred solution of furo[3,2-c]pyridin-2-ylmethanol (Preparation 4, 50 mg, 336 μmol) in anhydrous THF (5 mL). The reaction was heated under reflux for 6 h, before being cooled to 20° C. and quenched with saturated aqueous NH4Cl. The mixture was extracted twice with EtOAc, then the combined organic extracts were washed with brine, dried (MgSO4), filtered, and concentrated. The residue was purified by column chromatography (EtOAc-MeOH, 1:0 to 50:1) to furnish the title compound: RT=2.86 min; m/z (ES+)=361.3 [M+H]+.

reactant | t-BuOK | 401 μmol, 45 mg | CC(C)(C)[O-].[K+]
reactant | 4-(2-methanesulfonyloxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 436 μmol, 134 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOS(=O)(=O)C | C13H25NO5S
reactant | furo[3,2-c]pyridin-2-ylmethanol | 336 μmol, 50 mg | O1C(=CC=2C=NC=CC21)CO | C8H7NO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-[2-(Furo[3,2-c]pyridin-2-ylmethoxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC1=CC=2C=NC=CC2O1 | C20H28N2O4
